US04791122
Methyl 4-(3-chlorophenyl)-1,4-dihydro-2,6-dimethyl-5-phenylpyridine-3-carboxylate
12.82 g (50 mmol) of 1-(3-chlorophenyl)-2-phenyl-3-oxo-1-butene in 80 ml of ethanol are heated to reflux with 11.5 g (100 mmol) of methyl β-aminocrotonate and 6 ml (100 mmol) of acetic acid overnight. 11.5 g of methyl β-aminocrotonate and 6 ml of acetic acid are added once more, and the mixture is heated under reflux for 24 hours. On cooling, crystals are produced, and these are filtered off with suction and washed with ethanol. For complete purification, they are passed through a silica gel column using toluene/ethyl acetate 20:1. 5.3 g of a colorless substance, of melting point 191° C., are obtained.

reactant | 1-(3-chlorophenyl)-2-phenyl-3-oxo-1-butene | 50 mmol, 12.82 g | ClC=1C=C(C=CC1)C=C(C(C)=O)C1=CC=CC=C1 | C16H13ClO
reactant | methyl β-aminocrotonate | 100 mmol, 11.5 g | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | acetic acid | 100 mmol, 6 ml | C(C)(=O)O | C2H4O2
reactant | methyl β-aminocrotonate | 11.5 g | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | Methyl 4-(3-chlorophenyl)-1,4-dihydro-2,6-dimethyl-5-phenylpyridine-3-carboxylate | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C1=CC=CC=C1)C)C)C(=O)OC | C21H20ClNO2
